US05344837
5-(p-Cyanophenyl]pentylamine
Oxalyl chloride (43.0 mL, 0.492 mol) was added dropwise to a suspension of 5-(p-cyanophenyl)pentanoic acid in 100 mL of dry 1,2-dichloroethane at 23° C. under a nitrogen atmosphere. After 5 min, 50 mL of DMF was added. After 30 min, the reaction was concentrated in vacuo. The residue was dissolved in anhydrous THF (150 mL) under a nitrogen atmosphere. Azidotrimethylsilane (14.6 mL, 0.110 mL) was added dropwise at 23° C. After 5 min, the reaction was warmed to achieve reflux for 1 hour. The reaction was cooled to 10° C. and concentrated HCl (20 mL) was added over 1 min. The cooling bath was removed and stirring was continued for 15 min. The reaction was concentrated in vacuo and the residue was partitioned between ethyl acetate (200 mL) and water (200 mL). The aqueous layer was basified with 1N NaOH (250 mL) and extracted with ethyl acetate (2×200 mL). The organic layer was washed with water (100 mL) followed by brine (100 mL), and dried (Na2SO4). After concentration in vacuo, the residue was diluted with ethyl acetate:methanol (150 mL:5 mL) and treated with anhydrous HCl in dioxane (6.9N) at 0° C. The resultant precipitate was filtered, washed with ethyl acetate then ether. The solid was dried (atmospheric pressure; 55° C.) to afford 14.3 g: m.p. 155°-160° C.

reactant | Oxalyl chloride | 0.492 mol, 43.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(p-cyanophenyl)pentanoic acid | C(#N)C1=CC=C(C=C1)CCCCC(=O)O | C12H13NO2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | 5-(p-Cyanophenyl]pentylamine | C(#N)C1=CC=C(C=C1)CCCCCN | C12H16N2
